US06939885B2
Synthesis of N-[4-Chloro-2-(6-methyl-pyridine-3-carbonyl)-phenyl]-4-methanesulfonyl-benzenesulfonamide
The title compound was prepared according to the general procedure for the synthesis of N-Aryl-benzenesulfonamides previously described using (2-Amino-5-chloro-phenyl)-(6-methyl-pyridin-3-yl)-methanone and 4-Methanesulfonyl-benzenesulfonyl chloride and purified by HPLC. 1H NMR (CDCl3) δ 9.77 (br s, 1H, NH), 8.44 (dm, 1H, J=2.2 Hz), 7.87 (d, 2H, J=8.8 Hz), 7.83 (d, 2H, J=8.8 Hz), 7.76 (d, 1H, J=8.8 Hz), 7.60 (dd, 1H, J=8.0 Hz, J=2.2 Hz), 7.55 (dd, 1H, J=8.8 Hz, J=2.2 Hz), 7.36 (d, 1H, J=2.2), 7.26 (d, 1H, J=8.0 Hz), 3.00 (s, 3H), 2.66 (s, 3H). MS: m/z 465 (M+1).

reactant | (2-Amino-5-chloro-phenyl)-(6-methyl-pyridin-3-yl)-methanone | NC1=C(C=C(C=C1)Cl)C(=O)C=1C=NC(=CC1)C | C13H11ClN2O
reactant | 4-Methanesulfonyl-benzenesulfonyl chloride | CS(=O)(=O)C1=CC=C(C=C1)S(=O)(=O)Cl | C7H7ClO4S2
product | N-[4-Chloro-2-(6-methyl-pyridine-3-carbonyl)-phenyl]-4-methanesulfonyl-benzenesulfonamide | ClC1=CC(=C(C=C1)NS(=O)(=O)C1=CC=C(C=C1)S(=O)(=O)C)C(=O)C=1C=NC(=CC1)C | C20H17ClN2O5S2
